US05463107
To a solution of indazole (1.0 g, 8.3 mM) in methanol (10 μl) are added 28% solution of sodium methoxide in methanol (3.53 ml, 18.26 mmole) and bromoacetic acid (1.41 g, 9.96 mmole), and the mixture is heated to reflux for 2 hr. After addition of the same amount of sodium methoxide and bromoacetic acid, the mixture is heated to reflux for another 1 hr. This procedures of-addition are repeated two more times and the mixture is cooled to 0° C. After addition of ethyl acetate, the mixture is adjusted to pH 5 with 1N HCl. The organic layer is taken and the aqueous layer extracted with ethyl acetate. Each organic solution is washed with a brine, dried over anhydrous magnesium sulfate and concentrated. The residue, when purified with column chromatography (SiO2, ethyl acetate→ethyl acetate/acetic acid/water, (40:1:1)→(30:1:1)→(8:1:1)), gives 1-carboxymethylindazole (487 mg, yield 33%). 1H NMR (DMSO) δppm: 5.27 (s, 2H), 7.16(dd, J=7.0 Hz, J=8.0 Hz, 1H), 7.39(dd, J=7.0 Hz, J=8.0 Hz, 1H), 7.64(d, J=8.0 Hz, 1H), 7.77(d, J=8.0 Hz, 1H), 8.09(s, 1H).

reactant | indazole | 8.3 mM, 1.0 g | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | sodium methoxide | C[O-].[Na+]
reactant | bromoacetic acid | 9.96 mmole, 1.41 g | BrCC(=O)O | C2H3BrO2
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 10 μl | CO | CH4O
solvent | methanol | 18.26 mmole, 3.53 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-carboxymethylindazole | 487 mg, yield 33% | C(=O)(O)CN1N=CC2=CC=CC=C12 | C9H8N2O2
